US04192871
3α-Acetoxy-11β-chloroacetoxy-5α-androstane-17β-carbonitrile
A solution of 3α-acetoxy-11β-hydroxy-5α-androstane-17β-carbonitrile (250 mg) in dioxan (10 ml) was treated with 4-dimethylaminopyridine (25 mg) and chloroacetic anhydride (500 mg). The mixture was kept at room temperature for 20 minutes and was then diluted with sodium bicarbonate solution, allowed to stand for 10 minutes and then extracted into ethyl acetate. Evaporation of extract and crystallization of the residue from ether-petroleum ether afforded title compound, m.p. 187°-190°, (144 mg).

reactant | 3α-acetoxy-11β-hydroxy-5α-androstane-17β-carbonitrile | 250 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)O)C#N | C22H33NO3
reactant | chloroacetic anhydride | 500 mg | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3α-Acetoxy-11β-chloroacetoxy-5α-androstane-17β-carbonitrile | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CCl)=O)C#N | C24H34ClNO4
